US08003662B2
Step C: Preparation of 5-bromo-2-(phenylamino)pyrimidin-4(3H)-one:
To a suspension of 2-(phenylamino)pyrimidin-4(3H)-one (0.200 g, 1.07 mmol) in CHCl3 (5 mL) and a small amount of MeOH at 0° C. was added bromine (0.0547 ml, 1.07 mmol). The reaction was stirred for 40 minutes, diluted with H2O, and then quenched with 10% sodium bisulfite solution. The reaction mixture was diluted with EtOAc, the layers were separated and the aqueous layer was re-extracted with EtOAc (1×). The combined organic layers were dried over Na2SO4, filtered and concentrated. The product was obtained (0.284 g; 100%) as a white solid. 1H-NMR (400 MHz, DMSO-d6) δ 11.32 (br s, 1H), 8.89 (br s, 1H), 8.04 (s, 1H), 7.55 (d, 2H), 7.33 (m, 2H), 7.06 (t, 1H). LRMS (ESI pos) m/e 266, 268 (M+, Br pattern).

reactant | 2-(phenylamino)pyrimidin-4(3H)-one | 1.07 mmol, 0.200 g | C1(=CC=CC=C1)NC1=NC=CC(N1)=O | C10H9N3O
reactant | MeOH | CO | CH4O
reactant | bromine | 1.07 mmol, 0.0547 ml | BrBr | Br2
solvent | CHCl3 | 5 mL | C(Cl)(Cl)Cl | CHCl3
solvent | H2O | O | H2O
product | 5-bromo-2-(phenylamino)pyrimidin-4(3H)-one | BrC=1C(NC(=NC1)NC1=CC=CC=C1)=O | C10H8BrN3O
